US07320995B2
Dissolve 4-(N-tert-butoxycarbonyl-N-ethyl-amino)-benzyl alcohol (1.24 g, 5.52 mmol) in 50 mL acetonitrile. Add to this solution manganese dioxide and stir the mixture for two days at room temperature. Filter the residue through Celite® and concentrate the solvent to give 632 mg of 4-(N-tert-butoxycarbonyl-N-ethyl-amino) benzaldehyde. Yield 52%. 1H-NMR (CDCl3, 300 MHz): 9.95 (s, 1H); 7.83 (d, J=8.7 Hz, 2H); 7.39 (d, J=8.7 Hz, 2H); 3.74 (q, J=7.0 Hz, 2H); 1.45 (s, 9H); 1.18 (t, J=7.0 Hz, 3H).

reactant | 4-(N-tert-butoxycarbonyl-N-ethyl-amino)-benzyl alcohol | 5.52 mmol, 1.24 g | C(C)(C)(C)OC(=O)N(CC)C1=CC=C(CO)C=C1 | C14H21NO3
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | 4-(N-tert-butoxycarbonyl-N-ethyl-amino) benzaldehyde | 632 mg, Yield 52% | C(C)(C)(C)OC(=O)N(CC)C1=CC=C(C=O)C=C1 | C14H19NO3
